US08044062B2
To a solution of 2-(ethylamino)-8-(3-methoxypropyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (0.18 g, 0.65 mmol), acetic acid (5 mL) and dichloromethane (3 mL) was added bromine (36 ul, 0.7 mmol). The mixture was stirred for 5 minutes, and then diluted with DCM and water. The organic layer was washed with sat. sodium bicarbonate (3 times), brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by flash column chromatography to gave 0.13 g (56% yield) of 6-bromo-2-(ethylamino)-8-(3-methoxypropyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one. 1H NMR (400 MHz, CDCl3) δ 8.09 (s, 1H), 5.44 (Br. s, 1H), 4.55 (m, 2H), 3.54-3.47 (m, 4H), 3.33 (s, 3H), 2.53 (s, 3H), 2.05-2.00 (m, 2H), 1.30-1.23 (m, 3H); MS (E) for C14H19BrN4O2: 355 (MH+).

reactant | 2-(ethylamino)-8-(3-methoxypropyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.65 mmol, 0.18 g | C(C)NC=1N=C(C2=C(N1)N(C(C=C2)=O)CCCOC)C | C14H20N4O2
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | bromine | 0.7 mmol, 36 ul | BrBr | Br2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 6-bromo-2-(ethylamino)-8-(3-methoxypropyl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.13 g, 56% yield | BrC1=CC2=C(N=C(N=C2C)NCC)N(C1=O)CCCOC | C14H19BrN4O2
